US06897231B2
D. 3-(4-Fluorophenyl)-5-(2-phenylethynyl)-1-(tetrahydropyran-2-yl)-1H-indazole
A mixture of 5-bromo-3-(4-fluorophenyl)-1-(tetrahydropyran-2-yl)-1H-indazole (0.375 g, 1.0 mmol), triethylamine (1.5 mL), tri-o-tolylphosphine (0.122 g, 0.4 mmol), tri(dibenzylideneacetone)dipalladium(0) (0.092 g, 0.1 mmol) and phenylacetylene (0.204 g, 2.0 mmol) in dried acetonitrile (10 mL) under nitrogen was heated to reflux overnight. It was quenched with water and extracted with ethyl acetate. The extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 10-15% ethyl acetate/hexane) to provide the title compound (0.127 g, 32% yield). 1H NMR (CDCl3) δ 8.16 (t, 1H), 7.93-7.97 (m, 2H), 7.54-7.64 (m, 4H), 7.34-7.37 (m, 3H), 7.21 (t, 2H) 5.77 (dd, 1H), 4.08 (m, 1H), 3.79 (m, 1H), 2.62 (m, 1H), 2.11-2.21 (m, 2H), 1.57-1.83 (m, 3H); ES-MS (m/z) 397 [M+1]+.

reactant | 5-bromo-3-(4-fluorophenyl)-1-(tetrahydropyran-2-yl)-1H-indazole | 1.0 mmol, 0.375 g | BrC=1C=C2C(=NN(C2=CC1)C1OCCCC1)C1=CC=C(C=C1)F | C18H16BrFN2O
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 0.4 mmol, 0.122 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | phenylacetylene | 2.0 mmol, 0.204 g | C1(=CC=CC=C1)C#C | C8H6
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-(4-Fluorophenyl)-5-(2-phenylethynyl)-1-(tetrahydropyran-2-yl)-1H-indazole | 0.127 g, 32% yield | FC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C#CC1=CC=CC=C1)C1OCCCC1 | C26H21FN2O
